US06211199B1
45.1 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(3-(4-fluorophenoxy)propyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine (0.48 g, 0.78 mmol), 1-chloro-3-(4-fluorophenoxy)propane (0.15 g, 0.78 mmol), triethylbenzyl ammonium chloride (0.01 g), sodium hydroxide (2.0 g), water (2 mL), and dichloromethane (4 mL). Heat to about 35° C. After 18 hours, add ethyl acetate (100 mL) and separate the layers. Extract the organic layer with aqueous saturated sodium bicarbonate and brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 3/1 ethyl acetate/methanol to give the title compound. Rf=0.20 (silica gel, 3/1 ethyl acetate/methanol).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine | 0.78 mmol, 0.48 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H39F2N5O4
reactant | 1-chloro-3-(4-fluorophenoxy)propane | 0.78 mmol, 0.15 g | ClCCCOC1=CC=C(C=C1)F | C9H10ClFO
reactant | sodium hydroxide | 2.0 g | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
catalyst | triethylbenzyl ammonium chloride | 0.01 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(3-(4-fluorophenoxy)propyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2CCCOC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OC)OC | C43H48F3N5O5
